US05053548
A mixture was prepared by suspending 25 g of aluminium chloride into 100 ml of 1,2-dichloroethane. The mixture, wherein 5 ml chloroacetyl chloride was added, was stirred for 1 hour at room temperature, followed by dropwise addition of 5-ethyl-2,4'-dimethoxy-biphenyl, wherein 10 g of 1.2-dichloroethane was dropwise and stirred overnight at room temperature. The reaction mixture was transferred into ice water to extract with dichloroethane. The extract was washed with saturated salt water, dried with sodium sulfate and concentrated. The concentrate was purified by a silica gel column chromatography (10:1, n-hexane:ethyl acetate) and recrystallized from chloroform/n-hexane to yield 2.5 g of light yellow and powdered 2-chloroacetyl-4-(5-ethyl-2-methoxyphenyl)phenol having a m.p. of 67.0°-68.0° C. Then, the fraction which was eluted with n-hexane/ethyl acetate: 3/1, was concentrated. The concentrate was recrystallized from chloroform/n-hexane to yield 1.5 g of white powder 3,3-bischloroacetyl-5-ethyl-2,4'-biphenyldiol having a m.p. of 154.0°-155.5° C.

reactant | aluminium chloride | 25 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chloroacetyl chloride | 5 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 5-ethyl-2,4'-dimethoxy-biphenyl | C(C)C=1C=CC(=C(C1)C1=CC=C(C=C1)OC)OC | C16H18O2
solvent | 1.2-dichloroethane | 10 g | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 2-chloroacetyl-4-(5-ethyl-2-methoxyphenyl)phenol | ClCC(=O)C1=C(C=CC(=C1)C1=C(C=CC(=C1)CC)OC)O | C17H17ClO3
